US06465507B2
2-Oxo-3-(4-oxo-4,5,6,7-tetrahydro-2H-pyrrolo[3,4-c]pyridin-1-ylmethylene)-2,3-dihydro-1H-indole-5-carboxylic Acid Dimethylamide
A mixture of 2-oxo-2,3-dihydro-1H-indole-5-carboxylic acid dimethylamide (40.8 mg, 0.2 mmol), 4-oxo-4,5,6,7-tetrahydro-2H-pyrrolo[3,4-c]pyridine-1-carbaldehyde (1 eq.) and 0.1 mL of piperidine in ethanol (1 mL) was heated in a sealed tube at 80° C. for 3 hours. The precipitate was collected by vacuum filtration, washed with ethanol and dried to give the title compound as a yellow solid.

reactant | 2-oxo-2,3-dihydro-1H-indole-5-carboxylic acid dimethylamide | 0.2 mmol, 40.8 mg | CN(C(=O)C=1C=C2CC(NC2=CC1)=O)C | C11H12N2O2
reactant | 4-oxo-4,5,6,7-tetrahydro-2H-pyrrolo[3,4-c]pyridine-1-carbaldehyde | 1 eq. | O=C1NCCC=2C1=CNC2C=O | C8H8N2O2
reactant | piperidine | 0.1 mL | N1CCCCC1 | C5H11N
solvent | ethanol | 1 mL | C(C)O | C2H6O
product | 2-Oxo-3-(4-oxo-4,5,6,7-tetrahydro-2H-pyrrolo[3,4-c]pyridin-1-ylmethylene)-2,3-dihydro-1H-indole-5-carboxylic Acid Dimethylamide | CN(C(=O)C=1C=C2C(C(NC2=CC1)=O)=CC=1NC=C2C(NCCC21)=O)C | C19H18N4O3
